US04659718
A mixture of 1-methyl-3-(1H-tetrazol-5-yl)-4-quinolone (0.74 g), isopropyl bromide (0.31 ml), anhydrous potassium carbonate (0.45 g) and butanone (30 ml) was boiled under reflux for 16 hours. More isopropyl bromide (0.5 ml) was added and boiling under reflux was continued for 7 hours. More isopropyl bromide (0.5 ml) was added and boiling under reflux was continued for a further 24 hours. The mixture was evaporated to dryness and the residue treated with water (30 ml). The solid product was collected by filtration and partially purified by high pressure liquid chromatography over silica gel using dichloromethane:methanol 95:5 as the eluent. The solid product was recrystallised from ethyl acetate:diethyl ether 3:2 to give the novel compound 3-(2-isopropyl-1H-tetrazol-5-yl)-1-methyl-4-quinolone, m.p. 134°-137°.

reactant | 1-methyl-3-(1H-tetrazol-5-yl)-4-quinolone | 0.74 g | CN1C=C(C(C2=CC=CC=C12)=O)C1=NN=NN1 | C11H9N5O
reactant | isopropyl bromide | 0.31 ml | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 0.5 ml | C(C)(C)Br | C3H7Br
reactant | isopropyl bromide | 0.5 ml | C(C)(C)Br | C3H7Br
solvent | butanone | 30 ml | CC(CC)=O | C4H8O
product | 3-(2-isopropyl-1H-tetrazol-5-yl)-1-methyl-4-quinolone | C(C)(C)N1NC(=NN1)C1=CN(C2=CC=CC=C2C1=O)C | C14H17N5O
